US06121202
Preparation of 6-Bromo-4-methyl-2-{[5-(trifluoromethyl)-3-thienyl]oxy}pyridine
A solution of 2-bromo-6-fluoro-4-methyipyridine (1.00 g, 5.26 mmol) and 4-hydroxy-2-(trifluoromethyl)-thiophene (0.88 g, 5.26 mmol) in dimethylformamide is treated with K2CO3 (1.09 g, 7.89 mmol), heated at 80° C. for 23 hours, cooled to room temperature, poured onto water, acidified to pH 5-6 with 6N HCl and extracted with ether. The ether extracts are combined, washed sequentially with water and brine, dried over MgSQ4 and concentrated in vacuo to give a residue. The residue is chromatographed (silica gel, ethyl acetate/hexanes, 3/97) to afford the title produce as a yellow oil, 1.16 g (65% yield), identified by 1HNMR and 19FNMR analyses.

reactant | 2-bromo-6-fluoro-4-methyipyridine | 5.26 mmol, 1.00 g | BrC1=NC(=CC(=C1)C)F | C6H5BrFN
reactant | 4-hydroxy-2-(trifluoromethyl)-thiophene | 5.26 mmol, 0.88 g | OC=1C=C(SC1)C(F)(F)F | C5H3F3OS
reactant | K2CO3 | 7.89 mmol, 1.09 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 6N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-Bromo-4-methyl-2-{[5-(trifluoromethyl)-3-thienyl]oxy}pyridine | 65% yield | BrC1=CC(=CC(=N1)OC1=CSC(=C1)C(F)(F)F)C | C11H7BrF3NOS
